data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_146915_1,[C:1](/[N:2]=[C:4](\[N:5]([H:11])[H:12])[C:7]([C:3]([O:8][H:10])=[O:9])([N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([N:2]([C:3]([O:8][H:10])=[O:9])/[C:4]([N:5]([H:11])[H:12])=[C:7](\[N:6]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18],53.89283750001184
MR_261516_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([O:6][H:9])=[O:7])[C:5](=[O:8])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])=[C:4]([O:6][H:9])[O:7][C:5](=[O:8])[H:10],53.35507000001414
MR_421766_2,[C:1]([C:5](/[C:3]([C:4]([N:6]([H:10])[H:11])=[C:8]([H:17])[H:18])=[N:9]/[H:12])=[C:7](/[C:2]([H:19])([H:20])[H:21])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:5](/[C:3]([C:4]([N:6]([H:10])[H:12])=[C:8]([H:17])[H:18])=[N:9]/[H:11])=[C:7](/[C:2]([H:19])([H:20])[H:21])[H:13])([H:14])([H:15])[H:16],67.00821500003542
MR_698054_1,[C:1]([C:3](=[C:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])/[C:6](=[N:7]\[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:3]1=[C:6]([H:13])[N:7]([H:12])[C:2]1([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])([H:14])([H:15])[H:16],37.84138749998192
MR_54462_1,[C:1]1([N:5]([H:10])[H:11])([H:9])[C:4]([O:6][C:2]([H:12])([H:13])[H:14])([O:7][C:3]([H:15])([H:16])[H:17])[O:8]1>>[C:1]([C:4]([O:6][C:2]([H:12])([H:13])[H:14])=[O:8])([N:5]([H:10])[H:11])([O:7][C:3]([H:15])([H:16])[H:17])[H:9],10.934815000000242
MR_310076_2,[C:1](=[O:4])([N:5]([O:3][C:2]([H:9])([H:10])[H:11])[O:6][H:7])[H:8]>>[C:1]([O:3][C:2]([H:9])([H:10])[H:11])([O:4][H:7])([N:5]=[O:6])[H:8],23.08635249999611
MR_409145_1,[C:1]([N:2]([N:4]([H:9])[H:10])[H:8])(/[C:3]([N:5]([H:11])[H:12])=[C:7](\[N:6]([H:13])[H:14])[H:17])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[N:2]([N:4]([H:9])[H:10])[C@:3]1([N:5]([H:11])[H:12])[C:7]([N:6]([H:13])[H:14])([H:8])[H:17],60.822320000030174
MR_110853_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])(/[C:6](=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:12])[H:11])[O:8][H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:6](/[C:7]([C:4]([H:19])([H:20])[H:21])([C:5]([C:3]([H:16])([H:17])[H:18])=[O:9])[H:12])[H:11])[O:8][H:10],55.35114749996822
MR_345991_1,[C:1](/[C:2]([N:5]([H:13])[H:14])=[C:7](\[N:6]([H:15])[H:16])[H:17])([N:3]([H:11])[H:12])([N:4]([H:9])[H:10])[H:8]>>[C@@:1]1([N:4]([H:9])[H:10])([H:8])[C:2]([N:3]([H:11])[H:12])([N:5]([H:13])[H:14])[C@:7]1([N:6]([H:15])[H:16])[H:17],69.4548374999934
MR_194205_0,[C:1](/[N:7]=[C:3]([C:2]([H:14])([H:15])[H:16])/[N:6]=[C:5](\[N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:7]1[C:3]([C:2]([H:14])([H:15])[H:16])=[N:6][C:5]1([N:4]([H:8])[H:9])[H:10])([H:11])([H:12])[H:13],31.036777500005
MR_182966_0,[C:1]([C:3]([O:5]/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6]/[H:8])=[O:7])([H:9])([H:10])[H:11]>>[C:1]([C:3](=[O:5])[O:7]/[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6]/[H:8])([H:9])([H:10])[H:11],34.011755000055786
MR_561344_0,[c:1]1([N:3]([H:8])[H:9])[c:2]([N:4]([H:10])[H:11])[c:6]([H:13])[c:5]([H:12])[o:7]1>>[C:1]([C:2]1([N:4]([H:10])[H:11])[C:5]([H:12])[C:6]1[H:13])([N:3]([H:8])[H:9])=[O:7],57.47837249998355
MR_440996_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[C:6]12[C:8]([H:11])([C:7]([C:5]([H:22])([H:23])[H:24])=[C:9]1[H:12])[O:10]2>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:4]([H:19])([H:20])[H:21])[c:6]1[c:9]([H:12])[c:7]([C:5]([H:22])([H:23])[H:24])[c:8]([H:11])[o:10]1,40.530224999970415
MR_382687_2,[C:1]([C:3](=[C:4](\[O:6][H:8])[H:9])/[N:7]=[C:5](/[C:2]([H:14])([H:15])[H:16])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[N:7][C:5]([C:2]([H:14])([H:15])[H:16])([H:10])[C:4]1([O:6][H:8])[H:9])([H:11])([H:12])[H:13],32.9475149999962
MR_560704_0,[C:1](/[C:5]([C:3]([H:15])([H:16])[H:17])=[N:7]\[C:2]([H:12])([H:13])[H:14])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]\[H:9])([H:10])[H:11]>>[C:1](=[C:5]([C:3]([H:15])([H:16])[H:17])[N:7]([C:2]([H:12])([H:13])[H:14])/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]\[H:9])([H:10])[H:11],54.71925499999415
MR_341591_1,[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])=[C:7]([C:8]1([H:12])[C:2]([C:5]([H:19])([H:20])[H:21])([H:10])[C:6]1=[C:9]([H:22])[H:23])[H:11]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:6](=[C:9]([H:22])[H:23])[C:2]([C:5]([H:19])([H:20])[H:21])([H:10])[C:8]([H:12])=[C:7]1[H:11],57.66787750000447
MR_382425_1,[C@@:1]([N:4]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])([N:6]([H:11])[H:12])([N:9]=[C:5]([N:7]([H:13])[H:14])[N:8]([H:15])[H:16])[H:10]>>[C:1](\[N:6]([H:11])[H:12])(=[N:9]\[C:5]([N:4]([C:2]([H:17])([H:18])[H:19])[C:3]([H:20])([H:21])[H:22])([N:7]([H:13])[H:14])[N:8]([H:15])[H:16])[H:10],50.95613750000709
MR_25867_0,[C@@:1]([C:2]([H:14])([H:15])[H:16])([N:4]([N:5]([H:10])[H:11])[H:8])(/[C:6](=[C:7](/[C:3]([H:17])([H:18])[H:19])[H:13])[H:12])[H:9]>>[C:1](\[C:2]([H:14])([H:15])[H:16])(=[C:6](/[C@:7]([C:3]([H:17])([H:18])[H:19])([N:4]([N:5]([H:10])[H:11])[H:8])[H:13])[H:12])[H:9],58.57775249999008
